US07507740B2
(i) Production of N-{2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}-3-(methylthio)propanamide
To a mixture of 5-(2-aminoethyl)-N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride (230 mg) and triethylamine (0.61 mL) in tetrahydrofuran (8.0 mL) was added 3-(methylthio)propionyl chloride (0.15 mL) under ice-cooling. After stirring at room temperature for 20 hrs, water was added, and the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure, and the residue was separated and purified by basic silica gel column chromatography (eluent, ethyl acetate→ethyl acetate:methanol=9:1) to give the title compound (133 mg) as colorless crystals.

reactant | 5-(2-aminoethyl)-N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride | 230 mg | Cl.Cl.NCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)C(F)(F)F)Cl
reactant | triethylamine | 0.61 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(methylthio)propionyl chloride | 0.15 mL | CSCCC(=O)Cl | C4H7ClOS
reactant | water | O | H2O
solvent | tetrahydrofuran | 8.0 mL | O1CCCC1 | C4H8O
product | N-{2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}-3-(methylthio)propanamide | 133 mg | ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCNC(CCSC)=O | C25H23ClF3N5O2S
